US09359358B2
Step 3. 2-[6-(1,4-Dioxaspiro[4.5]dec-8-yloxy)-2-(trifluoromethyl)pyrimidin-4-yl]propan-2-ol
1-[6-(1,4-Dioxaspiro[4.5]dec-8-yloxy)-2-(trifluoromethyl)pyrimidin-4-yl]ethanone (0.21 g, 0.60 mmol) was dissolved in tetrahydrofuran (6.00 mL, 74.0 mmol) and was cooled to −78° C., then 3.0 M methylmagnesium bromide in ether (0.30 mL, 0.90 mmol) was added. The reaction was stirred at −78° C. for 1 hour at which time LCMS analysis showed that it was mostly done. The reaction was quenched with sat. NH4Cl and was transferred to a separatory funnel and partitioned between water and EtOAc, the phases were separated and the aqueous phase was washed with additional EtOAc. The combined organic phase was washed with water, then sat. NaCl, dried over MgSO4 and filtered and the solvent removed in vacuo to leave the crude product. MS: 363 (M+H). 1H NMR (500 MHz, CDCl3): δ 6.90 (s, 1H); 5.30 (m, 1H, OCH); 3.96 (s, 4H, OCH2); 1.98 (m, 4H); 1.82 (m, 2H); 1.63 (m, 2H); 1.50 (s, 311, CH3). 13C NMR (125 MHz, CDCl3): δ 176 (s, NC); 171 (s, OC); 156 (q, N2C); 119 (q, CF3); 108 (s, O2C); 105 (s, CH); 74 (s, OCH); 73 (s, HOC); 65 (s, OCH2); 32 (s, CH2); 30 (s, CH3); 28 (s, CH2).

reactant | 1-[6-(1,4-Dioxaspiro[4.5]dec-8-yloxy)-2-(trifluoromethyl)pyrimidin-4-yl]ethanone | 0.60 mmol, 0.21 g | O1CCOC12CCC(CC2)OC2=CC(=NC(=N2)C(F)(F)F)C(C)=O | C15H17F3N2O4
reactant | tetrahydrofuran | 74.0 mmol, 6.00 mL | O1CCCC1 | C4H8O
reactant | methylmagnesium bromide | 3.0 M | C[Mg]Br
reactant | ether | 0.90 mmol, 0.30 mL | CCOCC | C4H10O
product | 2-[6-(1,4-Dioxaspiro[4.5]dec-8-yloxy)-2-(trifluoromethyl)pyrimidin-4-yl]propan-2-ol | O1CCOC12CCC(CC2)OC2=CC(=NC(=N2)C(F)(F)F)C(C)(C)O | C16H21F3N2O4
